US06017923
Scheme D, step d: (E)-4-Hydroxy-2-benzoyloxymethyl-1-chlorobut-1-ene
Combine (E)-4-(p-methoxybenzyloxy)-2-benzoyloxymethyl-1-chlorobut-1-ene (1.02.6 g, 7.18 mmol) with methylene chloride (16 mL) and water (1 mL) and stir rapidly. Add 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.79 gm, 7.90 mmol). After 2 hours, filter the reaction mixture, rinse the filter cake with methylene chloride (200 mL) and concentrate the filtrate in vacuo. Chromatograph on silica gel eluting with 1/2 ethyl acetate/hexane to give the title compound as an oil. Rf =0.25; silica gel, 1/2 ethyl acetate/hexane.

reactant | (E)-4-(p-methoxybenzyloxy)-2-benzoyloxymethyl-1-chlorobut-1-ene | 7.18 mmol | COC1=CC=C(COCC\C(=C/Cl)\COC(C2=CC=CC=C2)=O)C=C1 | C20H21ClO4
reactant | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 7.90 mmol, 1.79 gm | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | water | 1 mL | O | H2O
product | (E)-4-Hydroxy-2-benzoyloxymethyl-1-chlorobut-1-ene | OCC\C(=C/Cl)\COC(C1=CC=CC=C1)=O | C12H13ClO3
